US06809110B2
In analogy to the procedure described in example 17 b], (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxy-2-fluoro-phenyl)-2-ethoxy-3-hydroxy-propionyl]-oxazolidin-2-one was treated with sodium methoxide in methanol to give (2S,3R)-3-(4-benzyloxy-2-fluoro-phenyl)-2-ethoxy-3-hydroxy-propionic acid methyl ester as colorless liquid. According to 1H-NMR spectroscopy, one single diastereomer was obtained.

reactant | (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxy-2-fluoro-phenyl)-2-ethoxy-3-hydroxy-propionyl]-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F)OCC)=O | C28H28FNO6
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | (2S,3R)-3-(4-benzyloxy-2-fluoro-phenyl)-2-ethoxy-3-hydroxy-propionic acid methyl ester | COC([C@H]([C@H](O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F)OCC)=O | C19H21FO5
